US07326786B2
The suspension of 6-quinolinecarboxaldehyde (6 g, 38 mmol), rhodanine (2-thioxo-4-thiazolidinone) (5.08 g, 38 mmol) and sodium acetate (12.5 g, 152 mmol) in acetic acid (50 mL) was stirred under reflux for 12 h. After cooling to room temperature, water (150 mL) was added. The solid was collected by filtration, washed with water and dried to obtain 5-[1-quinolin-6-yl-meth-(Z)-ylidene]-2-thioxo-thiazolidin-4-one (10.2 g, 98%) as a yellow solid. LC-MS m/e 273 (MH+).

reactant | 6-quinolinecarboxaldehyde | 38 mmol, 6 g | N1=CC=CC2=CC(=CC=C12)C=O | C10H7NO
reactant | rhodanine | 38 mmol, 5.08 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 152 mmol, 12.5 g | C(C)(=O)[O-].[Na+]
reactant | water | 150 mL | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-[1-quinolin-6-yl-meth-(Z)-ylidene]-2-thioxo-thiazolidin-4-one | 10.2 g, 98% | N1=CC=CC2=CC(=CC=C12)\C=C/1\C(NC(S1)=S)=O | C13H8N2OS2
